US04772599
Diethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo(1,5-a)(1,4)benzodiazepine-3,7-dicarboxylate
6-Ethoxycarbonyl-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione (10 mmol) was dissolved in 25 ml dry dimethylformamide (DMF). While stirring, K-t-butoxide (12 mmol) was added and the mixture was thereafter cooled to -20° C. A -30° C. cold solution of K-t-butoxide (12 mmol) in dry DMF (15 ml) was charged with isocyano-acetic acid ethylester (12 mmol). This solution was added to the above mentioned solution, and the combined solution was stirred at room temperature for 2 hours. 2 ml of acetic was added, whereafter the solution was evaporated to dryness. The oily residue was subjected to SiO2 -purification with acetone/chloroform (1/3) as eluent. This yielded the title compound as a crystalline powder. M.p. 136.3°-139.9° C.

reactant | 6-Ethoxycarbonyl-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | 10 mmol | C(C)OC(=O)C1=CC=CC2=C1C(N(CC(N2)=O)C)=O | C13H14N2O4
reactant | isocyano-acetic acid ethylester | 12 mmol | C(C)OC(C[N+]#[C-])=O | C5H7NO2
reactant | acetic | 2 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | DMF | 15 ml | CN(C=O)C | C3H7NO
product | Diethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo(1,5-a)(1,4)benzodiazepine-3,7-dicarboxylate | CN1CC=2N(C=3C(C1=O)=C(C=CC3)C(=O)OCC)C=NC2C(=O)OCC | C18H19N3O5
